US09359375B2
To a solution of tert-butyl (1S,2R)-2-(4-cyano-3-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate (38 mg, 0.080 mmol) in DMSO (1 mL), K2CO3 (100 mg, 0.724 mmol) and H2O2 (50% aq., 0.800 mL) were added. After being stirred at 100 C for 10 min, the mixture was purified by HPLC to give tert-butyl (1S,2R)-2-(4-carbamoyl-3-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate (6 mg).

reactant | tert-butyl (1S,2R)-2-(4-cyano-3-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate | 0.080 mmol, 38 mg | C(#N)C1=C(C=C(C=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=CC(=NO1)C1=CC=CC=C1 | C27H31N5O3
reactant | K2CO3 | 0.724 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 0.800 mL | OO | H2O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | tert-butyl (1S,2R)-2-(4-carbamoyl-3-(3-phenylisoxazol-5-ylamino)phenylamino)cyclohexylcarbamate | 6 mg | C(N)(=O)C1=C(C=C(C=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=CC(=NO1)C1=CC=CC=C1 | C27H33N5O4
